US04952699
Synthesis of 2-(4-n-octyloxyphenyl)-5-(4-[trans-4-n-propylcyclohexylpropionyloxy]phenyl)-1,3,4-thiadiazole
2-(4-n-Octyloxyphenyl)-5-(4-hydroxyphenyl)-1,3,4-thiadiazole (0.1 mole, 3.82 g) is suspended in 50 mL of absolute toluene and, after addition of 10 mL triethylamine and 100 mg 4-dimethylaminopyridine, treated with stirring with 0.011 moles (2.38 g) 3-(trans-4-n-propylcyclohexyl)-propionyl chloride. The mixture is stirred for 12 hours at room temperature and for 2 hours at 80° C. After being allowed to cool to room temperature, the reaction solution is diluted with 100 mL ether and washed once with 100 mL water, once with 100 mL 5% sodium bicarbonate solution and once again with 100 mL water. After drying over Na2SO4, the solvent is distilled off in a rotary evaporator. The residue is recrystallized from ethanol and methanol until the transition temperature is constant.

reactant | 2-(4-n-Octyloxyphenyl)-5-(4-hydroxyphenyl)-1,3,4-thiadiazole | 0.1 mole, 3.82 g | C(CCCCCCC)OC1=CC=C(C=C1)C=1SC(=NN1)C1=CC=C(C=C1)O | C22H26N2O2S
reactant | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(trans-4-n-propylcyclohexyl)-propionyl chloride | 0.011 moles, 2.38 g | C(CC)[C@@H]1CC[C@H](CC1)CCC(=O)Cl | C12H21ClO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-(4-n-octyloxyphenyl)-5-(4-[trans-4-n-propylcyclohexylpropionyloxy]phenyl)-1,3,4-thiadiazole | C(CCCCCCC)OC1=CC=C(C=C1)C=1SC(=NN1)C1=CC=C(C=C1)OC(CC[C@@H]1CC[C@H](CC1)CCC)=O | C34H46N2O3S
